US07932281B2
Synthesis of [4-(2-amino-5-cyano-phenylcarbamoyl)-butyl]-carbamic acid t-butyl ester
In chloroform/DMF (60 ml/30 ml), t-butoxycarbonylamino valeric acid (3.91 g), WSCI hydrochloride (4.02 g), and HOBt (2.82 g) were dissolved and the whole was stirred for 1 hour. The solution was added with the compound (2.32 g) obtained in Example 39-2 and the whole was stirred overnight at room temperature. After completion of the reaction, the solvent was distilled off under reduced pressure. The residue was dissolved in chloroform, washed with a saturated aqueous ammonium chloride solution, a saturated aqueous sodium hydrogen carbonate solution, and a saturated saline solution, and then dried with anhydrous sodium sulfate. After filtration, the solvent was distilled off under reduced pressure. The residue was purified through silica gel column chromatography (hexane/ethyl acetate), thereby obtaining the subject compound (4.06 g) as a white solid.

reactant | t-butoxycarbonylamino valeric acid | 3.91 g | C(C)(C)(C)OC(=O)NC(C(=O)O)CCC | C10H19NO4
reactant | WSCI hydrochloride | 4.02 g | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 2.82 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | chloroform DMF | 60 ml | C(Cl)(Cl)Cl.CN(C)C=O
product | [4-(2-amino-5-cyano-phenylcarbamoyl)-butyl]-carbamic acid t-butyl ester | 4.06 g | C(C)(C)(C)OC(NCCCCC(NC1=C(C=CC(=C1)C#N)N)=O)=O | C17H24N4O3
